US05990102
Methyl (4-phenylthio-2-oxoazetidin-1-yl)acetate
Treatment of 4-phenylthioazetidin-2-one (Iwata-Reuyl et. al., J. Nat. Prod., 1993, 56(8), 1373) (8 g) with methyl bromoacetate (7.5 g) under the conditions described for Example 1b gave the title compound as a colourless oil (6 g, 53% yield). 1H NMR δ (CDCl3) 2.87 (1H, dd, H3a), 3.42 (1H, dd, H3b), 3.70 (3H, s, CH3), 3.75, 4.29 (each 1H, d, NCH2), 5.22, (1H, dd, H4), 7.26-7.46 (5H, m, Ph-H).

reactant | 4-phenylthioazetidin-2-one | 8 g | C1(=CC=CC=C1)SC1CC(N1)=O | C9H9NOS
reactant | methyl bromoacetate | 7.5 g | BrCC(=O)OC | C3H5BrO2
product | Methyl (4-phenylthio-2-oxoazetidin-1-yl)acetate | 6 g, 53% yield | C1(=CC=CC=C1)SC1CC(N1CC(=O)OC)=O | C12H13NO3S
